US07592456B2
Step 2: 1-(2-{[6-(4-Fluorophenyl)-2-naphthyl]sulfonyl}pyridin-3-yl)cyclobutanol
The title compound was prepared from sodium 6-(4-fluorophenyl)naphthalene-2-sulfinate (340 mg, 1.1 mmol) and 1-(2-bromopyridin-3-yl)cyclobutanol (228 mg, 1.0 mmol) according to the method of Example 6 Step 4. Purification by flash column chromatography eluting with a 0-10% diethyl ether/dichloromethane gradient gave 1-(2-{[6-(4-fluorophenyl)-2-naphthyl]sulfonyl}pyridin-3-yl)cyclobutanol (200 mg, 46%). 1H NMR (500 MHz, CDCl3) δ 8.61 (1H, s), 8.29 (1H, d, J=2.2 Hz), 8.10-8.04 (2H, m), 8.01 (1H, d, J=8.7 Hz), 7.95 (1H, dd, J=1.6, 8.6 Hz), 7.88-7.81 (2H, m), 7.73-7.64 (2H, m), 7.40 (1H, dd, J=4.5, 7.8 Hz), 7.23-7.15 (2H, m), 5.01 (1H, s), 2.78-2.68 (4H, m), 2.42-2.34 (1H, m), 1.86-1.78 (1H, m); m/z (ES+) 434 [MH+].

reactant | sodium 6-(4-fluorophenyl)naphthalene-2-sulfinate | 1.1 mmol, 340 mg | FC1=CC=C(C=C1)C=1C=C2C=CC(=CC2=CC1)S(=O)[O-].[Na+]
reactant | 1-(2-bromopyridin-3-yl)cyclobutanol | 1.0 mmol, 228 mg | BrC1=NC=CC=C1C1(CCC1)O | C9H10BrNO
product | 1-(2-{[6-(4-fluorophenyl)-2-naphthyl]sulfonyl}pyridin-3-yl)cyclobutanol | 200 mg, 46% | FC1=CC=C(C=C1)C=1C=C2C=CC(=CC2=CC1)S(=O)(=O)C1=NC=CC=C1C1(CCC1)O | C25H20FNO3S
